US07528160B2
(6-{2-[5-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propoxy}-benzo[b]thiophen-3-yl)-acetic acid ethyl ester
A solution of 2-[5-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propan-1-ol (226 mg, 0.75 mmol) in toluene (4.0 mL) is degassed and filled with nitrogen for 3 times. O this solution is added 1,1′-(azodicarbonyl)-dipiperidine (190 mg, 0.75 and mmol) and tributylphosphine (0.186 mL, 0.75 mmol) under nitrogen at 0° C., followed by addition of (6-hydroxy-benzo[b]thiophen-3-yl)-acetic acid ethyl ester (120 mg, 0.5 mmol). The reaction mixture is allowed to warm to room temperature and stirred overnight, the mixture is loaded on silica gel column. Chromatography yields the title compound (250 mg).

reactant | 2-[5-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propan-1-ol | 0.75 mmol, 226 mg | CC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C(CO)C | C14H14F3NOS
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 190 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 0.75 mmol, 0.186 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (6-hydroxy-benzo[b]thiophen-3-yl)-acetic acid ethyl ester | 0.5 mmol, 120 mg | C(C)OC(CC=1C2=C(SC1)C=C(C=C2)O)=O | C12H12O3S
solvent | toluene | 4.0 mL | C1(=CC=CC=C1)C | C7H8
product | (6-{2-[5-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-yl]-propoxy}-benzo[b]thiophen-3-yl)-acetic acid ethyl ester | 250 mg | C(C)OC(CC=1C2=C(SC1)C=C(C=C2)OCC(C)C=2N=C(SC2C)C2=CC=C(C=C2)C(F)(F)F)=O | C26H24F3NO3S2
